US07375134B2
To a solution of L-leucine methyl ester hydrochloride (975 mg, 5.37 mmol) in dichloromethane (30 mL) was added 2,2,2-trifluoroacetophenone (0.75 mL, 5.34 mmol) and diisopropylethylamine (3.5 mL, 20 mmol). TiCl4 (0.55 mL, 5.0 mmol) in 0.45 mL dichloromethane was added dropwise, and the mixture was stirred overnight. Additional TiCl4 (0.4 mL, 3.6 mmol) was then added and the mixture was stirred 3 h. A solution of NaCNBH3 (1050 mg, 16.7 mmol) in MeOH (20 mL) was added and the mixture was stirred 2 h. Poured into 1N NaOH and extracted with ethyl acetate (2×). The organic phase was washed with 1N NaOH and brine, then dried over MgSO4 and evaporated. Purification by ISCO column chromatography (gradient 30% to 90% ethyl acetate/hexanes) provided methyl N-(2,2,2-trifluoro-1-phenylethyl)-L-leucinate.

reactant | L-leucine methyl ester hydrochloride | 5.37 mmol, 975 mg | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 2,2,2-trifluoroacetophenone | 5.34 mmol, 0.75 mL | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | diisopropylethylamine | 20 mmol, 3.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaCNBH3 | 16.7 mmol, 1050 mg | [BH3-]C#N.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.45 mL | ClCCl | CH2Cl2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | TiCl4 | 5.0 mmol, 0.55 mL | Cl[Ti](Cl)(Cl)Cl
catalyst | TiCl4 | 3.6 mmol, 0.4 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl N-(2,2,2-trifluoro-1-phenylethyl)-L-leucinate | FC(C(C1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)OC)(F)F | C15H20F3NO2
